US04883901
Ethyl 2-(4-acetamidophenoxy)propanoate (5.0 g, 2.0 mmol) is hydrolyzed by refluxing for 6 hours at 80° C. with ethanol (10 mL) and 3 drops of concentrated hydrochloric acid. The reaction is concentrated under reduced pressure to obtain ethyl 2-(4-aminophenoxy)propanoate (0.4 g) (yield 95%).

reactant | Ethyl 2-(4-acetamidophenoxy)propanoate | 2.0 mmol, 5.0 g | C(C)(=O)NC1=CC=C(OC(C(=O)OCC)C)C=C1 | C13H17NO4
catalyst | hydrochloric acid | 3 drops | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | ethyl 2-(4-aminophenoxy)propanoate | 0.4 g, yield 95% | NC1=CC=C(OC(C(=O)OCC)C)C=C1 | C11H15NO3
